US08975254B2
d) (S)-5-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide
The title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (0.7 g, 2.67 mmol), 3-acetyl-1H-pyrazole-5-carboxylic acid (0.494 g, 3.20 mmol), HOBt (0.433 g, 3.20 mmol), DIPEA (0.558 ml, 3.20 mmol) and EDCI (0.614 g, 3.20 mmol) using the method of Example 34(d) producing 0.29 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.17 (m, 3H), 4.32 (m, 2H), 4.44 (m, 1H), 6.97 (m, 1H), 7.31 (m, 1H), 7.71 (m, 2H), 7.83 (m, 1H), 8.44 (m, 1H), 14.15 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 2.67 mmol, 0.7 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F)C | C13H12F2N4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 3.20 mmol, 0.494 g | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | HOBt | 3.20 mmol, 0.433 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 3.20 mmol, 0.558 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 3.20 mmol, 0.614 g | CCN=C=NCCCN(C)C | C8H17N3
product | (S)-5-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide | 0.29 g | C(C)(=O)C1=CC(=NN1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)F)C | C19H16F2N6O2
